US07057052B2
To a solution of 2,5-dichloro-1,4-benzoquinone (0.242 g, 1.37 mmol) in THF (3 mL) was added H2SO4 (35 μL, 0.68 mmol) at room temperature. To this mixture was added 5-methoxyindole (0.100 g, 0.68 mmol). After the reaction mixture was stirred for 1 hour at room temperature under nitrogen protection, DDQ (0.232 g, 1.02 mmol) was added. After stirring for 2 hours, the mixture was diluted with ethyl acetate (100 mL). The organic layer was washed with sat. NaHCO3 (3×20 mL) and brine (20 mL), and dried over Na2SO4. The solution was concentrated and purified by flash column chromatography using 15% EtOAc in hexane as eluent to afford 2,5-dichloro-3-(5-methoxy-1H-indole-3-yl)-[1,4]benzoquinone (0.211 g, 96%) as blue needles from benzene/hexane. Melting Point 195–196° C. 1H NMR (CDCl3): 6.78 (1H, d, J=2.4 Hz), 6.93 (1H, dd, J=2.1, 8.4 Hz), 7.23 (1H, s), 7.34 (1H, d, J=9.0 Hz), 7.54 (1H, d, J=3.0 Hz), 8.62 (1H, br s). 13C NMR (d6-acetone): 55.2, 103.8, 106.7, 112.4, 112.8, 126.5, 130.9, 131.0, 131.4, 133.4, 139.8, 143.7, 154.8, 177.8, 178.0. IR (KBr): 3328, 3043, 2924, 2855, 1675, 1638, 1543, 1484, 1260, 1227 cm−1. Anal. Calcd. for C15H9Cl2NO3: C, 55.93; H, 2.82; N, 4.35. Found: C, 55.72; H, 2.99; N, 4.24.

reactant | 2,5-dichloro-1,4-benzoquinone | 1.37 mmol, 0.242 g | ClC=1C(C=C(C(C1)=O)Cl)=O | C6H2Cl2O2
reactant | H2SO4 | 0.68 mmol, 35 μL | OS(=O)(=O)O | H2O4S
reactant | 5-methoxyindole | 0.68 mmol, 0.100 g | COC=1C=C2C=CNC2=CC1 | C9H9NO
reactant | DDQ | 1.02 mmol, 0.232 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2,5-dichloro-3-(5-methoxy-1H-indole-3-yl)-[1,4]benzoquinone | 0.211 g, 96% | ClC=1C(C=C(C(C1C1=CNC2=CC=C(C=C12)OC)=O)Cl)=O | C15H9Cl2NO3
